US08859573B2
4′-(trifluoromethyl)-4-biphenylcarbaldehyde
The title compound was prepared by a procedure similar to that described for D83 starting from [4-(trifluoromethyl)phenyl]boronic acid and 4-bromobenzaldehyde. LC-MS (ESI): m/z 251 [M+H]+; 3.63 min (ret time).

reactant | [4-(trifluoromethyl)phenyl]boronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | 4′-(trifluoromethyl)-4-biphenylcarbaldehyde | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
